US07935722B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-3-yl)isobutyramide
Combine p-bromophenylhydrazine hydrochloride (10.0 g, 44.7 mmol) and N-(4-oxo-cyclohexyl)isobutyramide (8.20g, 44.7 mmol) in saturated ethanolic HCl (180 mL) and heat at reflux under nitrogen for 18 h. Concentrate in vacuo to remove about ½ of the EtOH, then dilute with water (300 mL). Collect the resulting solid, slurry in EtOAc and recollect to give 11.5 g (77%) of a beige solid. MS (ES): 335 (M+1), 337 (M+H+2). 1H NMR(DMSO-d6): δ 10.93 (s, 1H, NH), 7.80 (d, 1H, J=7.9 Hz), 7.48 (s, 1H), 7.19 (d, 1H, J=8.8 Hz), 7.07 (d, 1H, J=8.4 Hz), 4.00 (m, 1H), 2.86 (dd, 1H, J=15.2, 5.1 Hz), 2.77 (m, 2H), 2.46-2.32 (m, 2H), 1.93 (m, 1H), 1.75 (m, 1H), 0.99 (d, 6H, J=6.6 Hz).

reactant | p-bromophenylhydrazine hydrochloride | 44.7 mmol, 10.0 g | Cl.BrC1=CC=C(C=C1)NN
reactant | N-(4-oxo-cyclohexyl)isobutyramide | 44.7 mmol, 8.20g | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
solvent | HCl | 180 mL | Cl | ClH
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-3-yl)isobutyramide | 11.5 g, 77% | BrC=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C16H19BrN2O
